Name:  ___               Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
Clozaril / Tegretol / Benadryl
 
Attending: ___.
 
Chief Complaint:
Shortness of Breath
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
___ y/o M with nonischemic dilated CMY, EF ___ attributed to  
an anti-psychotic medication, mild pHTN, ___ MR and TR, CKD b/l 
___ creatinine, with BiV ICD presents for decreased appetite, 
orthopnea, has to stop when walks from garage to his house due 
to SOB. Patient states that these symptoms began about a month 
ago and has worsened during the past few days. SOB, which he 
describes as "hyperventilation" occurs randomly and 
intermittently with no particular pattern-- at times with 
exertion, at rest, when feeling excited, or when talking. SOB 
resolves within 30 seconds after resting and "meditating." He 
has been taking his torsemide daily, but has been drinking more 
fluids (4 sodas/day) and began eating prepared food from a new 
___ grocery about 1.5 months ago. Denies any recent weight 
gain, chest pain, palpitations.  
Of note, he has a psychiatric history but psych symptoms are 
stable at this time but reports possibly some emotional distress 
about his girlfriend recent hysterectomy one week ago. His 
girlfriend just moved in over the last week after her 
hysterectomy and his symptoms started over the same time period. 
 
At one point he had been considered for LVAD, but that was 
deferred given he doesn't have a lot of social support. Last 
seen by ___ in ___ when he had a 10 pound weight loss (204 
-> 194) after increasing his torsomide and cutting down his soda 
intake from 6 cans/day to 3 cans/day.  
On arrival to the floor, patient has no complaints, but during 
our interview he had an episode of sob that lasted for a few 
seconds without any O2 desaturation.  

 
Past Medical History:
1. Chronic systolic heart failure and cardiomyopathy dating back 
 
to ___ with LVEF as low as ___, currently 35-40%.  
2. Pacemaker with ICD, no longer BiV pacing due to chest wall  
stimulation.  
3. Paranoid schizophrenia.  
4. Depression.  
5. Hypertension.  
6. Hyperlipidemia.  
7. Renal cancer with tumor extraction in ___.  
8. GERD/ Barretts esophagus.  
9. Complete teeth extraction.  
10. Mild anemia.  

 
Social History:
___
Family History:
Premature coronary artery disease  
Paternal & Maternal grandfathers had heart dz 
 
Physical Exam:
INITIAL PHYSICAL EXAM
=====================
VS- 98 125/92 88 20 96RA, weight 87.1kg  
GENERAL- WDWN gentleman in NAD. Oriented x3. Mood, affect 
appropriate.  
HEENT- NCAT. Sclera anicteric. PERRL, EOMI. MMM  
NECK- Supple with JVD at 12cm however exam difficult due to body 
habitus, significant carotid pulsations and TR  
CARDIAC- RRR. ___ holosystolic murmur best heard at the left 
lower sternal border and apex.  
LUNGS- Resp were unlabored, no accessory muscle use. mild 
crackles at R lower base, otherwise CTAB, no wheezes or rhonchi. 
 
ABDOMEN- Soft, obese, NTND. +BS  
EXTREMITIES- No c/c/e.  

DISCHARGE PHYSICAL EXAM
========================
VS: 97.7 107/76 (97-122) 88 18 98 RA   
weight: 83.4 <- 83.8kg <- 87.1kg  
GENERAL- WDWN gentleman in NAD. Oriented x3.  
HEENT- NCAT. Sclera anicteric. PERRL, EOMI. MMM  
NECK- Supple with JVP @ 6-7 cm 
CARDIAC- RRR. ___ holosystolic murmur best heard at the left 
lower sternal border and apex.  
LUNGS- Resp were unlabored, no accessory muscle use, lungs clear 
  
ABDOMEN- Soft, obese, NTND. +BS  
EXTREMITIES- No c/c/e.  
 
Pertinent Results:
INITIAL LAB RESULTS
====================
___ 08:30PM BLOOD WBC-10.4 RBC-4.80 Hgb-13.0* Hct-42.6 
MCV-89 MCH-27.2 MCHC-30.6* RDW-16.2* Plt ___
___ 08:30PM BLOOD Glucose-90 UreaN-41* Creat-2.0* Na-142 
K-4.6 Cl-100 HCO3-29 AnGap-18
___ 08:30PM BLOOD Calcium-9.5 Phos-5.4* Mg-2.2
___ 08:30PM BLOOD ___
___ 08:30PM BLOOD cTropnT-<0.01

IMAGING
===========
___ CXR
FINDINGS:  Frontal and lateral views of the chest were obtained. 
 Triple-lead left-sided AICD is similar in position.  No large 
pleural effusion is seen.  The cardiac silhouette remains 
enlarged.  The aorta is calcified and tortuous. Right infrahilar 
opacity may relate to atelectasis and overlap of vascular 
structures but consolidation is not entirely excluded in the 
appropriate clinical setting; however, the appearance is likely 
similar to scout radiograph and chest CT from ___.  No 
pneumothorax. 

___ Stress Test
INTERPRETATION: ___ yo man with h/o non-ischemic, severe 
cardiomyopathy with LVEF ~ ___ was referred to evaluate his 
functional exercise tolerance. The patient completed 8 minutes 
and 30 
seconds of a 10 Watt ramping cycle ergometry protocol; peak 84 
Watts. 
The exercise test was stopped at the patient's request secondary 
to leg 
fatigue versus progressive shortness of breath. No chest, back, 
neck or 
arm discomforts were reported by the patient during the 
procedure. The 
ECG is uninterpretable for ischemia in the presence of the 
ventricular 
pacing. The rhythm was sinus with infrequent isolated VPBs 
noted. A flat 
blood pressure response to exercise was noted with a subtle drop 
in 
systolic blood pressure noted toward peak exercise. Peak 
exercise heart 
rate was blunted in the presence of beta blocker therapy. 
  
CARDIOPULMONARY DATA: 
  
Peak oxygen consumption (VO2peak) was 12.5 ml/kg/min (1029 
ml/min; 3.6 
METS). This represents 45% of the patient's predicted VO2peak of 
27.5 
ml/kg/min. Ventilatory threshold was difficult to determine in 
the 
setting of excessive oscillatory ventilaton noted from rest to 
peak 
exercise. Respiratory Exchange Ratio at peak exercise was 1.20 
indicating a maximal effort given by the patient. VE/VCO2 slope 
was 47 
indicating very poor ventilatory efficiency possibly secondary 
to poor 
perfusion and elevated pulmonary pressures. O2 pulse was also 
reduced at 
8 ml/beat (predicted 14 ml/beat) also an indication of poor 
perfusion 
and is considered an indirect assessment of stroke volume during 

exercise. 
  
IMPRESSION: Poor exercise tolerance (Weber Class C). Elevated 
VE/VCO2 
(Ventilatory Class IV) indicating poor perfusion and elevated 
pulmonary 
pressure. Blunted O2 pulse and blood pressure response to 
exercise. No 
anginal symptoms with an uninterpretable ECG. 

DISCHARGE LAB RESULTS
==========================
___ 07:25AM BLOOD WBC-9.9 RBC-5.04 Hgb-13.8* Hct-45.0 
MCV-89 MCH-27.3 MCHC-30.6* RDW-15.8* Plt ___
___ 07:25AM BLOOD Glucose-83 UreaN-33* Creat-1.7* Na-143 
K-3.9 Cl-102 HCO3-32 AnGap-13
___ 07:25AM BLOOD Calcium-9.2 Phos-3.7 Mg-2.___ y/o gentleman with nonischemic dilated CMY, EF ___ 
attributed to an anti-psychotic medication, mild pHTN, ___ MR 
and TR, CKD b/l ___ creatinine, with BiV ICD presents with 
intermittent SOB.  

ACUTE ISSUES

# SOB/dilated CMY: 
The patient's SOB was most likely due to an acute CHF 
exacerbation. His physical exam was notable for an S3, elevated 
JVP, in addition to an elevated BNP. Though he did not have 
crackles on lung exam, given his severe heart failure, he may 
not present with pulmonary edema or crackles due to lymphatic 
changes. He diuresed well with IV Lasix, and upon reaching a 
euvolemic state he was transitioned to PO Torsemide 100mg Daily, 
up from prior home dose of alternating 80 mg/100 mg daily. 

# CORONARIES/HLD: 
The patient does not have a known history of CAD. He did not 
present with chest pain or exertional symptoms concerning for 
acute coronary syndrome. His Tn was <.01 without ischemic 
changes on EKG.  He was continued on Aspirin, Atorvastatin, and 
Isosorbide Mononitrate. He was also started on Hydralazine 10mg 
TID to prevent tachyphylaxis with Isosorbide Mononitrate.

CHRONIC ISSUES

# CKD: 
The patient has known CKD with a baseline creatinine 1.7-2. His 
Cr was trended closely and medications were renally dosed.
 
# anxiety: The patient was continue on alprazolam:PRN  

# Paranoid schizophrenia: The patient was continued on 
olanzapine  

TRANSITIONAL ISSUES
-pls monitor electrolytes given recent aggressive diuresis
-pls facilitate metabolic stress test

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Allopurinol ___ mg PO DAILY 
2. OLANZapine 10 mg PO DAILY 
3. ALPRAZolam 0.5 mg PO BID:PRN anxiety 
4. Metoprolol Succinate XL 100 mg PO DAILY 
5. Digoxin 0.125 mg PO DAILY 
6. Atorvastatin 10 mg PO DAILY 
7. Spironolactone 12.5 mg PO DAILY 
8. Multivitamins 1 TAB PO DAILY 
9. Isosorbide Mononitrate 30 mg PO DAILY 
10. Omeprazole 20 mg PO BID 
11. Potassium Chloride 20 mEq PO DAILY 
12. Aspirin 81 mg PO DAILY 
13. Vitamin D 1000 UNIT PO DAILY 
14. Fish Oil (Omega 3) 1000 mg PO BID 
15. Torsemide 100 mg PO 3X/WEEK (___) 
16. Torsemide 80 mg PO 4X/WEEK (___) 

 
Discharge Medications:
1. Allopurinol ___ mg PO DAILY 
2. ALPRAZolam 0.5 mg PO BID:PRN anxiety 
3. Aspirin 81 mg PO DAILY 
4. Atorvastatin 10 mg PO DAILY 
5. Digoxin 0.125 mg PO DAILY 
6. Fish Oil (Omega 3) 1000 mg PO BID 
7. Isosorbide Mononitrate 30 mg PO DAILY 
8. Metoprolol Succinate XL 100 mg PO DAILY 
9. Multivitamins 1 TAB PO DAILY 
10. OLANZapine 10 mg PO DAILY 
11. Omeprazole 20 mg PO BID 
12. Spironolactone 12.5 mg PO DAILY 
13. Vitamin D 1000 UNIT PO DAILY 
14. Potassium Chloride 20 mEq PO DAILY 
Hold for K > 
15. Torsemide 100 mg PO DAILY 

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
PRIMARY DIAGNOSIS
1.Shortness Of Breath

SECONDARY DIAGNOSIS:
2. Dilated Cardiomyopathy
3. Chronic Kidney Disease

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Mr. ___:

It was a pleasure caring for you at ___ 
___. You were admitted because you were feeling short 
of breath. This is likely due to extra fluid on your lungs. You 
received medication to remove this fluid and felt better 
afterwards.

Please weigh yourself every morning, call MD if weight goes up 
more than 3 lbs. Please follow up at the appointments listed 
below. 

Thank you for choosing ___. We wish you the very best.

Sincerely,

Your ___ Team
 
Followup Instructions:
___